US04963553
4,5-Dihydro-7-(3-methylphenyl)-4-[[4-(phenylmethyl)-1-piperazinyl]acetyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile, hydrochloride
A mixture of 3.3 g of 4-(chloroacetyl)-4,5-dihydro-7-(3-methylphenyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile, 1.9 ml of 1-benzylpiperazine and 1.3 g of sodium carbonate in 130 ml of toluene was reacted as described in Example 146, giving 2.7 g of the neutral base form of the product. A 1.0 g portion of this base was warmed to solution in 20 ml of ethanol and then treated with 3 ml of 2.44N ethanolic hydrochloric acid and an excess of ether, giving 900 mg of the desired product, mp 205°-207° C.

reactant | 4-(chloroacetyl)-4,5-dihydro-7-(3-methylphenyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 3.3 g | ClCC(=O)N1C=2N(C(=CC1)C1=CC(=CC=C1)C)N=CC2C#N | C16H13ClN4O
reactant | 1-benzylpiperazine | 1.9 ml | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | sodium carbonate | 1.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 2.44N, 3 ml | Cl | ClH
solvent | toluene | 130 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 4,5-Dihydro-7-(3-methylphenyl)-4-[[4-(phenylmethyl)-1-piperazinyl]acetyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile, hydrochloride | 900 mg | Cl.CC=1C=C(C=CC1)C1=CCN(C=2N1N=CC2C#N)C(CN2CCN(CC2)CC2=CC=CC=C2)=O | InChI=1S/C27H28N6O.ClH/c1-21-6-5-9-23(16-21)25-10-11-32(27-24(17-28)18-29-33(25)27)26(34)20-31-14-12-30(13-15-31)19-22-7-3-2-4-8-22;/h2-10,16,18H,11-15,19-20H2,1H3;1H
